US04413135
N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]-thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
A mixture of 1-[[[5-[(dimethylamino)methyl]-2-furanyl]-methyl]thio]methanimidamide maleate (1:2) (2.23 g), N-(2-chloroethyl)-N'-methyl-2-nitro-1,1-ethenediamine (0.9 g) and potassium carbonate (3.46 g) in water (10 ml) and tetrahydrofuran (10 ml) was stirred under nitrogen at room temperature for 5 days. The suspension was evaporated in vacuo; the residue suspended in water (50 ml) and extracted with ether (2×40 ml). The aqueous fraction was evaporated in vacuo and magnesium sulphate and tetrahhydrofuran (100 ml) added. After 18 hours, the mixture was filtered and the filtrate evaporated to give a semi-solid which was chromatographed (silica/methanol). The appropriate eluate was evaporated in vacuo to give the title compound (0.3 g), which had an n.m.r. identical to that of the product according to Example 1 above.

reactant | 1-[[[5-[(dimethylamino)methyl]-2-furanyl]-methyl]thio]methanimidamide maleate | 2.23 g | C(\C=C/C(=O)O)(=O)O.CN(C)CC1=CC=C(O1)CSC(N)=N
reactant | N-(2-chloroethyl)-N'-methyl-2-nitro-1,1-ethenediamine | 0.9 g | ClCCNC(=C[N+](=O)[O-])NC | C5H10ClN3O2
reactant | potassium carbonate | 3.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]-thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 0.3 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
